US07067666B2
2-Amino-4,5-methylenedioxy-phenylbenzylmethanone
To a stirred solution of 1.5 g (10.0 mmol) of 2-amino-4,5-methylenedioxy-benzonitrile in THF (40 mL) was added CuBr (50 mg, 0.34 mmol) and benzylmagnesium chloride (40 mL, 1.0 M solution in Et2O). The reaction mixture was refluxed for 12 h. After cooling to 25° C., H2O (5 mL) was added followed by 15% H2SO4 (15 mL). After stirring for 14 h, ether (50 mL) was added. Organic layer was separated. Aqueous layer was extracted with ether (2×50 mL). The combined organic layer was dried and evaporated. Following chromatography (silica gel, CHCl3), 1.2 g (52%) of the title compound was obtained. IR (CHCl3) 1675 cm−1 MS m/z 255 (M+).

reactant | 2-amino-4,5-methylenedioxy-benzonitrile | 10.0 mmol, 1.5 g | NC1=C(C#N)C=C2C(=C1)OCO2 | C8H6N2O2
reactant | benzylmagnesium chloride | 1.0 M, 40 mL | C(C1=CC=CC=C1)[Mg]Cl
reactant | H2O | 5 mL | O | H2O
reactant | H2SO4 | 15 mL | OS(=O)(=O)O | H2O4S
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | ether | 50 mL | CCOCC | C4H10O
product | 2-Amino-4,5-methylenedioxy-phenylbenzylmethanone | 1.2 g, 52% | NC1=C(C=C2C(=C1)OCO2)C(=O)CC2=CC=CC=C2 | C15H13NO3
